datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"COc1ccc[n+:21]([H:20])c1.C[n+]1cccc([O-:10])c1>>COc1ccc[n:21]c1.C[n+]1cccc([O:10][H:20])c1 10=20;20,21=21",
"CCCCNC(=O)[N:21](S(=O)(=O)c1ccc(C)cc1)[H:20].Cc1ccccc1/C(c1ccccc1-c1ccccc1)=[N:10]/CCC[NH+](C)C>>CCCCNC(=O)[N-:21]S(=O)(=O)c1ccc(C)cc1.Cc1ccccc1/C(c1ccccc1-c1ccccc1)=[N+:10](/CCC[NH+](C)C)[H:20] 10=20;20,21=21",
"Cc1ccnc([N:21](S(=O)(=O)c2ccc(N)cc2)[H:20])n1.c1ccc(-c2ccc([NH2:10])cc2)cc1>>Cc1ccnc([N-:21]S(=O)(=O)c2ccc(N)cc2)n1.c1ccc(-c2ccc([NH2+:10][H:20])cc2)cc1 10=20;20,21=21",
"C[C:21](C1=CC=CC=C1)([N+](=O)[O-])[H:20].C[NH+](c1ccccc1)C([O-])[O-:10]>>C[C-:21](C1=CC=CC=C1)[N+](=O)[O-].C[NH+](c1ccccc1)C([O-])[O:10][H:20] 10=20;20,21=21",
"CC(=O)c1ccc([S:21][H:20])cc1.CC1=C/C(=N\c2ccc([O-:10])cc2)C(C(C)C)=CC1=O>>CC(=O)c1ccc([S-:21])cc1.CC1=C/C(=N\c2ccc([O:10][H:20])cc2)C(C(C)C)=CC1=O 10=20;20,21=21",
"CC(C)(Cl)C(=O)[O-:10].CCOC(=O)N1CC[NH+:21]([H:20])CC1>>CC(C)(Cl)C(=O)[O:10][H:20].CCOC(=O)N1CC[NH:21]CC1 10=20;20,21=21",
"CCc1ccc(O)c(C[N:10](C)C)c1.COCC[NH+:21](c1ccccc1)[H:20]>>CCc1ccc(O)c(C[N+:10](C)(C)[H:20])c1.COCC[NH:21]c1ccccc1 10=20;20,21=21",
"Cc1ccccc1[N:21](N=C(C#N)C#N)[H:20].[NH3+]CCC[NH2:10]>>Cc1ccccc1[N-:21]N=C(C#N)C#N.[NH3+]CCC[NH2+:10][H:20] 10=20;20,21=21",
"CCC(C)[N+:21](C)(C)[H:20].[O-]c1cc[n+]([C@H]2O[C@@H](CO)[C@H](O)[C@H]2O)c([O-])[n:10]1>>CCC(C)[N:21](C)C.[O-]c1cc[n+]([C@H]2O[C@@H](CO)[C@H](O)[C@H]2O)c([O-])[n+:10]1[H:20] 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].NC(=O)C[C@H](NC(=O)[C@H](CS)[NH2:10])C(=O)O>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.NC(=O)C[C@H](NC(=O)[C@H](CS)[NH2+:10][H:20])C(=O)O 10=20;20,21=21",
"CC(Cc1ccc2c(c1)OCO2)[NH2+:21][H:20].OCCC[NH2+]CC[NH2:10]>>CC(Cc1ccc2c(c1)OCO2)[NH2:21].OCCC[NH2+]CC[NH2+:10][H:20] 10=20;20,21=21",
"C=C(C)C(=O)OCC[N+:21](CC)(CC)[H:20].COc1cccc([O-:10])c1>>C=C(C)C(=O)OCC[N:21](CC)CC.COc1cccc([O:10][H:20])c1 10=20;20,21=21",
"CC(=O)[CH:21]([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:20].[NH3+]CCCCC[NH2:10]>>CC(=O)[CH-:21][P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[NH3+]CCCCC[NH2+:10][H:20] 10=20;20,21=21",
"O=C(C(CO)[NH2+]Cc1cc(Cl)ccc1O)[O:21][H:20].O=C(CCc1c[nH]c2ccccc12)[O-:10]>>O=C(C(CO)[NH2+]Cc1cc(Cl)ccc1O)[O-:21].O=C(CCc1c[nH]c2ccccc12)[O:10][H:20] 10=20;20,21=21",
"CC(C)(C)c1ccc([NH2+:21][H:20])cc1.c1c(CN2CCNCC[NH:10]CC2)n[nH]c1CN1CCNCCNCC1>>CC(C)(C)c1ccc([NH2:21])cc1.c1c(CN2CCNCC[NH+:10]([H:20])CC2)n[nH]c1CN1CCNCCNCC1 10=20;20,21=21",
"CNc1cccc[n:10]1.O=C1C(/C=C/c2ccccc2)=C([O:21][H:20])C(=O)c2ccccc21>>CNc1cccc[n+:10]1[H:20].O=C1C(/C=C/c2ccccc2)=C([O-:21])C(=O)c2ccccc21 10=20;20,21=21",
"Cc1cc(C)[n+:21]([H:20])c(NS(=O)(=O)c2ccc(N)cc2)n1.[NH3+]CCCCC(=O)[O-:10]>>Cc1cc(C)[n:21]c(NS(=O)(=O)c2ccc(N)cc2)n1.[NH3+]CCCCC(=O)[O:10][H:20] 10=20;20,21=21",
"C[NH+](C)CCCNc1cc[n:10]c2cccc([N+](=O)[O-])c12.O=C1c2ccc(Cl)cc2C(=O)[N:21]1[H:20]>>C[NH+](C)CCCNc1cc[n+:10]([H:20])c2cccc([N+](=O)[O-])c12.O=C1c2ccc(Cl)cc2C(=O)[N-:21]1 10=20;20,21=21",
"CC(=O)C=C(C)[O-:10].CC1CCCC[NH+:21]1[H:20]>>CC(=O)C=C(C)[O:10][H:20].CC1CCCC[NH:21]1 10=20;20,21=21",
"CNCC[NH:10]C.C[N+]1=CC=C([CH:21](S(=O)(=O)C2=CC=CC=C2)[H:20])C=C1>>CNCC[NH+:10](C)[H:20].C[N+]1=CC=C([CH-:21]S(=O)(=O)C2=CC=CC=C2)C=C1 10=20;20,21=21",
"Cc1[nH][n+:21]([H:20])c(O)c1C(C)C.NNC(=O)C(Cc1ccccc1)[NH2:10]>>Cc1[nH][n:21]c(O)c1C(C)C.NNC(=O)C(Cc1ccccc1)[NH2+:10][H:20] 10=20;20,21=21",
"CCc1cn[n+:21]([H:20])c(C)c1.C[NH+](C)Cc1cccc([O-:10])c1>>CCc1cn[n:21]c(C)c1.C[NH+](C)Cc1cccc([O:10][H:20])c1 10=20;20,21=21",
"CC(C)C1=CC=CC(=O)C([O-:10])=C1.NC(=O)[C@H](N)[C@H](O)C(=O)[O:21][H:20]>>CC(C)C1=CC=CC(=O)C([O:10][H:20])=C1.NC(=O)[C@H](N)[C@H](O)C(=O)[O-:21] 10=20;20,21=21",
"CCOCCn1c(CN2CCC[NH+](CCCCn3cccn3)CC2)[n:10]c2ccccc21.NS(=O)(=O)c1cccc([NH2+:21][H:20])c1>>CCOCCn1c(CN2CCC[NH+](CCCCn3cccn3)CC2)[n+:10]([H:20])c2ccccc21.NS(=O)(=O)c1cccc([NH2:21])c1 10=20;20,21=21",
"O=C([O-])[C@@H]1O[C@H](Oc2cccc3c2ccc[n:10]3)[C@@H](O)[C@H](O)[C@H]1O.OC[C@@H]1O[C@H](C[N+:21]2([H:20])CCOCC2)[C@@H](O)[C@H](O)[C@@H]1O>>O=C([O-])[C@@H]1O[C@H](Oc2cccc3c2ccc[n+:10]3[H:20])[C@@H](O)[C@H](O)[C@H]1O.OC[C@@H]1O[C@H](C[N:21]2CCOCC2)[C@@H](O)[C@H](O)[C@@H]1O 10=20;20,21=21",
"C[Si](C)(CNC1CCCCC1)O[Si](C)(C)C[NH:10]C1CCCCC1.O=C1SC2=C(C=CC=C2)[CH:21]1[H:20]>>C[Si](C)(CNC1CCCCC1)O[Si](C)(C)C[NH+:10](C1CCCCC1)[H:20].O=C1SC2=C(C=CC=C2)[CH-:21]1 10=20;20,21=21",
"C[N+]1=CC=C([CH:21](C(=O)C2=CC=CC=C2)[H:20])C=C1.C[NH:10]CCCC(=O)[O-]>>C[N+]1=CC=C([CH-:21]C(=O)C2=CC=CC=C2)C=C1.C[NH+:10](CCCC(=O)[O-])[H:20] 10=20;20,21=21",
"Nc1ccnc(-c2cc(N)cc[n+:21]2[H:20])c1.c1c[n:10]c[nH]1>>Nc1ccnc(-c2cc(N)cc[n:21]2)c1.c1c[n+:10]([H:20])c[nH]1 10=20;20,21=21",
"CC(C)(C(=O)[O-])c1c[nH]c(CO)[n:10]1.O=C1C=C(S(=O)(=O)[O-])/C(=N/[O:21][H:20])c2[nH]ncc21>>CC(C)(C(=O)[O-])c1c[nH]c(CO)[n+:10]1[H:20].O=C1C=C(S(=O)(=O)[O-])/C(=N/[O-:21])c2[nH]ncc21 10=20;20,21=21",
"CC(C)C[C@@H](C(=O)N[C@@H](CCC(N)=O)C(=O)O)[NH:21][H:20].Cc1cc(N)ccc1C[NH2:10]>>CC(C)C[C@@H](C(=O)N[C@@H](CCC(N)=O)C(=O)O)[NH-:21].Cc1cc(N)ccc1C[NH2+:10][H:20] 10=20;20,21=21",
